US08217066B2
Step 1: [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-ylmethyl]-methyl-phenethyl-amine:
5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carbaldehyde (0.150 g, 0.56 mmol) and N-methyl-phenethylamine (0.10 mL, 0.67 mmol) were combined in MeOH and stirred at room temperature overnight. Once no starting material was seen by analytical LCMS, sodium borohydride (0.064 g, 1.69 mmol) was added and the reaction was stirred at room temperature for 1 hour. H2O was added and the mixture was extracted with EtOAc. The combined organic layers were dried and concentrated, and the residue was purified by silica gel chromatography to give the title compound.

reactant | 5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carbaldehyde | 0.56 mmol, 0.150 g | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C=O | C11H8BrNO2
reactant | N-methyl-phenethylamine | 0.67 mmol, 0.10 mL | CNCCC1=CC=CC=C1 | C9H13N
reactant | sodium borohydride | 1.69 mmol, 0.064 g | [BH4-].[Na+]
reactant | H2O | O | H2O
solvent | MeOH | CO | CH4O
product | [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-ylmethyl]-methyl-phenethyl-amine | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)CN(CCC1=CC=CC=C1)C | C20H21BrN2O
